### PR TITLE
feat: basic concepts of auction theory

### PR DESCRIPTION
**Pull request by hcWang942**
## Description
Formalise some core concepts and results in auction theory: this includes definitions for first-price and second-price auctions, as well as several fundamental results and helping lemmas.

This is the very first PR of the project formalizing core concepts and results in auction theory.
Our group is working on more contributions on the formalization of game theory prefix. 

Co-authored-by: Ma Jiajun <hoxide@gmail.com>

## Reference
Roughgarden, Tim. ***Twenty Lectures on Algorithmic Game Theory***. Cambridge University Press, 2020. [Link](https://www.cambridge.org/core/books/twenty-lectures-on-algorithmic-game-theory/A9D9427C8F43E7DAEF8C702755B6D72B)
---
- [x] Will depend on #14163 once that PR is merged. The Fintype lemmas introduced by this PR have been added in that PR and will be removed from here once that PR gets merged

## Current plan for formalization of Game Theory
The current plan for the formalizing of Game Theory include:
#### 1. Auction Theory. 🎉   _(200+ lines, this PR)_ 
- Essential definitions of Sealed-bid auction, First-price auction and Second-price auction.
- First-price auction has no dominant strategy.
- Second-price auction has dominant strategy. (Second-price auction is DSIC)
#### 2. Mechanism design & Myerson's Lemma.    🎉 (400+ lines, pending for modification to Mathlib Standard)
-  Mechanism design
An allocation rule is implementable if there exists 
        - Dominant Strategy Incentive Compatible (DSIC) payment rule
        - An allocation rule is monotone if for every bidder’s gain is nondecreasing w.r.t. her/his bid
- Myerson's Lemma
                Implementable ⇔ Monotone
                In the above case, the DSIC payment rule is unique.                                     
#### 3. von Neumann‘s Minimax Theorem. 🎉 (800+ lines, pending for modification to Mathlib Standard)
- Equilibrium in zero sum game
- Formalization strategy: via Loomis’s theorem.

### CODE REVIEW

**Review by hcWang942 — COMMENTED** [review]
This is the mastered version for PR and Merging. Kindly please review the code. Feel free to leave feedback. ; )

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 1]
```diff
@@ -0,0 +1,322 @@
...
+/-- The Auction structure is set with components including: -/
+structure Auction where
+   /-- A set of participants.-/
+   I : Type*
+   /-- A `Fintype` instance. -/
+   hF : Fintype I
+   /-- An `Inhabited` instance. -/
+   hI: Inhabited I
+   /-- There exist at least two different participants. -/
+   hP : ∃ i j : I , i ≠ j
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:90]: In Mathlib, this is spelt `Nontrivial I` (which means the same thing)

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 2]
```diff
@@ -0,0 +1,322 @@
...
+* [T. Roughgarden, *Twenty lectures on Algorithmic Game Theory*][roughgarden2016]
+
+## Tags
+
+auction, game theory, economics, bidding, valuation
+-/
+
+open Classical
+
+lemma two_different_elements {I : Type*} (h : ∃ (i j : I), i≠ j) : ∀ (i:I), ∃ j, i≠ j := by
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:71]: After changing to `Nontrivial` as I suggest below, this theorem is already in mathlib as `exists_ne`

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 3]
```diff
@@ -0,0 +1,322 @@
...
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b b': a.I → ℝ , (b i = bi) → (∀ j: a.I, j≠ i→ b j = b' j)
+   →  utility  b i ≥ utility b' i
+
+/-- If `i`'s bid is higher than all other bids, then `i` is the winner. -/
+lemma gt_wins (i : a.I) (H: ∀ j , i ≠ j →  b i > b j) : i = winner b := by
+   have HH : ∀ j, i = j ↔  b j = maxb b:= by
+      have imax : b i = maxb b := by
+         have H1 : b i ≤  maxb b := by
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:159]: A general style comment: mathlib uses a three-space indent not a two-space indent.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 4]
```diff
@@ -0,0 +1,322 @@
...
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : a.I := Classical.choose (exists_max b)
+
+/-- The bid of the winner equals the highest bid. -/
+lemma winner_take_max : b (winner b) = maxb b:= Classical.choose_spec (exists_max b)
+
+/-- Removing a participant `i` from all participants still leaves a non-empty set. -/
+lemma delete_i_nonempty (i:a.I) :Finset.Nonempty (Finset.erase  Finset.univ i ) := by
+  obtain ⟨ i , hi ⟩  := a.hP' i
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:122]: Another general style comment: we don't put spaces inside angle brackets:
```suggestion
  obtain ⟨i, hi⟩ := a.hP' i
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 5]
```diff
@@ -0,0 +1,322 @@
...
+/-- Utility is non-negative if the bid equals the valuation. -/
+lemma utility_nneg (i: a.I) : (b i = a.v i) → utility b i ≥ 0 := by
+  intro H
+  by_cases H2: i = winner b
+  rw [utility]
+  simp only [H2]
+  rw [<-H2]
+  rw [<-H]
+  rw [H2]
+  rw [winner_take_max b]
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:229]: Normally this type of tactic sequence would be written as `rw [A, B, C]` or similar; note that you can still see the intermediate goal states by putting your cursor after each comma.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 6]
```diff
@@ -0,0 +1,322 @@
...
+    simp only [Finset.mem_univ, Finset.mem_erase, and_true]
+    exact (Ne.symm H)
+  exact Real.partialOrder.proof_4 (B b i) (Finset.sup' Finset.univ maxb.proof_1 b) H1 H2
+
+
+
+/-- Utility is non-negative if the bid equals the valuation. -/
+lemma utility_nneg (i: a.I) : (b i = a.v i) → utility b i ≥ 0 := by
+  intro H
+  by_cases H2: i = winner b
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:223]: After a `by_cases`, it's best to create a `·` for each goal: it makes it easier to read without lean running, but also it means that if someone breaks your proof, they know which goal they broke.

**Review by eric-wieser — COMMENTED** [review]
Thanks for the PR! Some general lean advice to start you off, though I haven't reviewed this mathematically yet.

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/GameTheory/Auction/Secondprice.lean:159]: You mean, the other way around: mathlib uses two spaces. Please change the PR from three spaces to two.

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/GameTheory/Auction/Secondprice.lean:229]: Another small suggestion: you can use the left arrow (←) instead, which is nicer to read.
In VS Code, you can type this by typing `\l` and pressing a space; the editor will replace this by the arrow.

**Comment by grunweg** [comment]
I have also copied over the `awaiting-review` label from the old PR.

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 3 above)
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean:159]: Thank you both for your feedback. I understand there seems to be some confusion regarding the indentation style. Based on the guidelines and @eric-wieser comment, I will update the PR full context to use a 3-space indent. If there are any further clarifications or corrections needed, please let me know.

Comment (grunweg) [reply Mathlib/GameTheory/Auction/Secondprice.lean:159]: Oh no - mathlib indentation is two spaces! (Or four spaces if you indent twice, six space if you indent thrice, etc.)
The [style guide](https://leanprover-community.github.io/contribute/style.html) is pretty clear, in my opinion. If you find a place which differs, please let us know so it can be fixed!

Comment (eric-wieser) [reply Mathlib/GameTheory/Auction/Secondprice.lean:159]: Yes sorry, the above is a typo!

**Comment by hcWang942** [comment]
Latest version of code is updated, Kindly please review the code. Feel free to leave feedback. ; )

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 7]
```diff
@@ -0,0 +1,304 @@
...
+   /-- A `Fintype` instance. -/
+   hF : Fintype I
+   /-- An `Inhabited` instance. -/
+   hI : Nontrivial I
+   /-- A function mapping each participant to their valuation. -/
+   v : I → ℝ
+
+namespace Auction
+
+variable {a : Auction} (b : a.I → ℝ )
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:85]:
```suggestion
variable {a : Auction} (b : a.I → ℝ)
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 8]
```diff
@@ -0,0 +1,304 @@
...
+
+instance: Fintype a.I := a.hF
+instance: Nontrivial a.I := a.hI
+instance: Nonempty a.I := by let ⟨x, _⟩ := @exists_pair_ne a.I a.hI; use x
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:89]:
```suggestion
instance : Fintype a.I := a.hF
instance : Nontrivial a.I := a.hI
instance : Nonempty a.I := by let ⟨x, _⟩ := @exists_pair_ne a.I a.hI; use x
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 9]
```diff
@@ -0,0 +1,304 @@
...
+
+/-!###  Helper Functions and Definitions -/
+
+/-- Computes the highest bid given a bidding function `b`. -/
+@[simp]
+def maxb : ℝ  := Finset.sup' Finset.univ Finset.univ_nonempty b
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:95]:
```suggestion
def maxb : ℝ := Finset.sup' Finset.univ Finset.univ_nonempty b
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 10]
```diff
@@ -0,0 +1,304 @@
...
+   exact ⟨i, symm h2⟩
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : a.I := Classical.choose (exists_max b)
+
+/-- The bid of the winner equals the highest bid. -/
+lemma winner_take_max : b (winner b) = maxb b:= Classical.choose_spec (exists_max b)
+
+/-- Removing a participant `i` from all participants still leaves a non-empty set. -/
+lemma delete_i_nonempty (i:a.I) :Finset.Nonempty (Finset.erase  Finset.univ i ) := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:109]:
```suggestion
lemma delete_i_nonempty (i : a.I) : Finset.Nonempty (Finset.erase  Finset.univ i ) := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 11]
```diff
@@ -0,0 +1,304 @@
...
+  obtain ⟨j, hj⟩  := exists_ne i
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:110]:
```suggestion
  obtain ⟨j, hj⟩ := exists_ne i
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 12]
```diff
@@ -0,0 +1,304 @@
...
+/-- There exists a participant `i` whose bid equals the highest bid. -/
+lemma exists_max : ∃ i: a.I, b i = a.maxb b := by
+   obtain ⟨i,  _, h2⟩ := Finset.exists_mem_eq_sup' Finset.univ_nonempty b
+   exact ⟨i, symm h2⟩
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : a.I := Classical.choose (exists_max b)
+
+/-- The bid of the winner equals the highest bid. -/
+lemma winner_take_max : b (winner b) = maxb b:= Classical.choose_spec (exists_max b)
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:106]:
```suggestion
lemma winner_take_max : b (winner b) = maxb b := Classical.choose_spec (exists_max b)
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 13]
```diff
@@ -0,0 +1,304 @@
...
+instance: Nonempty a.I := by let ⟨x, _⟩ := @exists_pair_ne a.I a.hI; use x
+
+/-!###  Helper Functions and Definitions -/
+
+/-- Computes the highest bid given a bidding function `b`. -/
+@[simp]
+def maxb : ℝ  := Finset.sup' Finset.univ Finset.univ_nonempty b
+
+/-- There exists a participant `i` whose bid equals the highest bid. -/
+lemma exists_max : ∃ i: a.I, b i = a.maxb b := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:98]:
```suggestion
lemma exists_max : ∃ i : a.I, b i = a.maxb b := by
```

**Review by tb65536 — COMMENTED** [review]
There are a bunch of slight spacing issues. I've pointed out a few, but can you go through the file and fix them? Thanks!

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 14]
```diff
@@ -0,0 +1,304 @@
...
+lemma utility_loser (i: a.I) (H : i≠ winner b) : utility b i = 0 := by
+  rw [utility]; simp only [ite_false, H]
+
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (i : a.I) (bi : ℝ): Prop := ∀ b b': a.I → ℝ , (b i = bi) → (∀ j: a.I,j≠i→ b j = b' j)
+   →  utility  b i ≥ utility b' i
+
+/-- If `i`'s bid is higher than all other bids, then `i` is the winner. -/
+lemma gt_wins (i : a.I) (H: ∀ j , i ≠ j →  b i > b j) : i = winner b := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:143]:
```suggestion
lemma gt_wins (i : a.I) (H: ∀ j , i ≠ j →  b j < b i) : i = winner b := by
```

**Review by tb65536 — COMMENTED** [review]
You should replace `>` with `<` and `≥` with `≤` throughout the file.

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/GameTheory/Auction/Secondprice.lean:89]: Or better
```suggestion
attribute [instance] a.hF a.hI
```
You don't need the `Nonempty` instance at all, Lean knows how to find that automatically

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 15]
```diff
@@ -0,0 +1,305 @@
...
+   v : I → ℝ
+
+namespace Auction
+
+variable {a : Auction} (b : a.I → ℝ)
+
+instance : Fintype a.I := a.hF
+instance : Nontrivial a.I := a.hI
+instance : Nonempty a.I := by let ⟨x, _⟩ := @exists_pair_ne a.I a.hI; use x
+-- attribute [instance] a.hF a.hI
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:90]:
```suggestion
attribute [instance] a.hF a.hI
```

Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean:90]: Hi Eric, thanks for your kind suggestion. But the line  `attribute [instance] a.hF a.hI` actually  make no progress. The Lean may not able to find the instance automatically and gives a feedback in the infoview like `unknown constant 'a.hF'`. Can you please give me some guide on that? Thanks!

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 16]
```diff
@@ -0,0 +1,305 @@
...
+   exact ⟨i, symm h2⟩
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : a.I := Classical.choose (exists_max b)
+
+/-- The bid of the winner equals the highest bid. -/
+lemma winner_take_max : b (winner b) = maxb b := Classical.choose_spec (exists_max b)
+
+/-- Removing a participant `i` from all participants still leaves a non-empty set. -/
+lemma delete_i_nonempty (i : a.I) : Finset.Nonempty (Finset.erase Finset.univ i ) := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:110]:
```suggestion
lemma delete_i_nonempty (i : a.I) : Finset.Nonempty (Finset.erase Finset.univ i) := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 17]
```diff
@@ -0,0 +1,305 @@
...
+  obtain ⟨j, hj⟩ := exists_ne i
+  use j
+  simp only [Finset.mem_univ, not_true, Finset.mem_erase, and_true]
+  rw [ne_comm]
+  exact Ne.symm hj
+
+/-- `B i` is the maximal bid of all participants but `i`. -/
+noncomputable def B (i: a.I) : ℝ := Finset.sup' (Finset.erase Finset.univ i)
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:118]:
```suggestion
noncomputable def B (i : a.I) : ℝ := Finset.sup' (Finset.erase Finset.univ i)
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 18]
```diff
@@ -0,0 +1,305 @@
...
+noncomputable def utility (i : a.I) : ℝ := if i = winner b then a.v i - secondprice b else 0
+
+/-! ### Proofs and Lemmas -/
+variable {i: a.I}
+/-- If `i` is the winner, then their utility is their valuation minus the second highest bid. -/
+lemma utility_winner (H: i = winner b) : utility b i = a.v i - secondprice b:= by
+  rw [utility]; simp only [ite_true, H]
+
+/-- If `i` is not the winner, then their utility is 0. -/
+lemma utility_loser (i: a.I) (H : i≠ winner b) : utility b i = 0 := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:135]:
```suggestion
lemma utility_loser (i : a.I) (H : i ≠ winner b) : utility b i = 0 := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 19]
```diff
@@ -0,0 +1,305 @@
...
+  rw [utility]; simp only [ite_false, H]
+
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (i : a.I) (bi : ℝ): Prop := ∀ b b': a.I → ℝ , (b i = bi) → (∀ j: a.I,j≠i→ b j = b' j)
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:140]:
```suggestion
def dominant (i : a.I) (bi : ℝ) : Prop := ∀ b b' : a.I → ℝ, (b i = bi) → (∀ j : a.I,j ≠ i→ b j = b' j)
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 20]
```diff
@@ -0,0 +1,305 @@
...
+   → utility b' i ≤ utility b i
+
+/-- If `i`'s bid is higher than all other bids, then `i` is the winner. -/
+lemma gt_wins (i : a.I) (H: ∀ j , i ≠ j → b j < b i) : i = winner b := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:144]:
```suggestion
lemma gt_wins (i : a.I) (H : ∀ j , i ≠ j → b j < b i) : i = winner b := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 21]
```diff
@@ -0,0 +1,305 @@
...
+      exact imax
+    · intro hbj
+      by_contra hji
+      have hji' := H j (by rw [ne_eq];exact hji)
+      aesop
+  rw [HH]
+  rw [← winner_take_max]
+
+/-- The bid of the winner is always greater than or equal to the bids of all other participants.-/
+lemma b_winner_max (H: i = winner b) : ∀ j: a.I, b j ≤ b i := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:171]: I would probably state this as:
```suggestion
lemma b_winner_max (j : a.I) : b j ≤ b (winner b) := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 22]
```diff
@@ -0,0 +1,305 @@
...
+    rw [← winner_take_max b]
+    apply Finset.le_sup'
+    simp only [Finset.mem_univ, Finset.mem_erase, and_true]
+    exact (Ne.symm H)
+  exact Real.partialOrder.proof_4 (B b i) (Finset.sup' Finset.univ maxb.proof_1 b) H1 H2
+
+
+
+/-- Utility is non-negative if the bid equals the valuation. -/
+lemma utility_nneg (i : a.I) : (b i = a.v i) → 0 ≤ utility b i := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:209]: In general you should move hypotheses left of the colon.
```suggestion
lemma utility_nneg (i : a.I) (H : b i = a.v i) : 0 ≤ utility b i := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 23]
```diff
@@ -0,0 +1,305 @@
...
+
+/--The second highest bid: the highest bid excluding the winner’s bid.-/
+noncomputable def secondprice : ℝ := B b (winner b)
+
+/-- Defines the utility of participant `i`,
+which is their valuation minus the second highest bid if `i` is the winner, otherwise, it's 0. -/
+noncomputable def utility (i : a.I) : ℝ := if i = winner b then a.v i - secondprice b else 0
+
+/-! ### Proofs and Lemmas -/
+variable {i: a.I}
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:129]:
```suggestion
variable {i : a.I}
```

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 20 above)
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:144]: You can use `contrapose! H` to shorten the proof. For example:
```
lemma b_winner_max (j : a.I) : b j ≤ b (winner b) := by
  rw [winner_take_max b]
  exact Finset.le_sup' b (Finset.mem_univ j)

lemma gt_wins (i : a.I) (H : ∀ j , i ≠ j → b j < b i) : i = winner b := by
  contrapose! H
  exact ⟨winner b, H, b_winner_max b i⟩
```

**Comment by hcWang942** [comment]
Hi I have a short question. Do I need to get my branch updated before merge. Note that there're some commits behind.

Moreover, may I know if there are something for me to do before merging? TQ

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 24]
```diff
@@ -0,0 +1,271 @@
...
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : a.I := Classical.choose (exists_max b)
+
+/-- The bid of the winner equals the highest bid. -/
+lemma winner_take_max : b (winner b) = maxb b := Classical.choose_spec (exists_max b)
+
+/-- Removing a participant `i` from all participants still leaves a non-empty set. -/
+lemma delete_i_nonempty (i : a.I) : Finset.Nonempty (Finset.erase Finset.univ i) := by
+  obtain ⟨j, hj⟩ := exists_ne i
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:108]: I think mathlib is missing
```
lemma Finset.Nontrivial.univ {α} [Fintype α] [Nontrivial α] :
    Finset.Nontrivial (Finset.univ : Finset α) :=
  let ⟨a, b, h⟩ := exists_pair_ne α; ⟨a, mem_univ _, b, mem_univ _, h⟩
```
as then the proof here is just 
`Finset.Nontrivial.erase_nonempty (.univ)`

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 25]
```diff
@@ -0,0 +1,271 @@
...
+  simp only [H, if_false]
+
+
+/-- Defines a dominant strategy in the context of a first price auction. -/
+def Dominant.FirstPrice (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b b': a.I → ℝ, (b i = bi) → (∀ j: a.I, j ≠ i → b j = b' j)
+  → Utility.FirstPrice b' i ≤ Utility.FirstPrice b i
+
+/-- Shows that there is no dominant strategy in a first price auction for any `i` and bid `bi`. -/
+theorem first_price_has_no_dominant_strategy (i: a.I) (bi: ℝ) : ¬(Dominant.FirstPrice i bi):= by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:249]:
```suggestion
theorem first_price_has_no_dominant_strategy (i : a.I) (bi : ℝ) : ¬ Dominant.FirstPrice i bi := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 26]
```diff
@@ -0,0 +1,271 @@
...
+/-- Computes the utility for a first price auction where the winner pays their bid. -/
+noncomputable def Utility.FirstPrice (i: a.I) : ℝ := if i = winner b then a.v i - b i else 0
+
+/-- If `i` is the winner in a first price auction, utility is their valuation minus their bid. -/
+lemma utility_first_price_winner(i: a.I) (H: i = winner b): Utility.FirstPrice b i = a.v i-b i := by
+  rw [H]
+  simp only [Utility.FirstPrice, if_true]
+
+/-- If `i` is not the winner in a first price auction, their utility is 0. -/
+lemma utility_first_price_loser(i: a.I) (H: i ≠ winner b): Utility.FirstPrice b i = 0 := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:238]:
```suggestion
lemma utility_first_price_loser (i : a.I) (H: i ≠ winner b) : Utility.FirstPrice b i = 0 := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 27]
```diff
@@ -0,0 +1,271 @@
...
+      exact le_add_of_nonneg_of_le this H1
+  · have := utility_nneg b i hb
+    convert this
+    simp [utility, H]
+
+/-- Computes the utility for a first price auction where the winner pays their bid. -/
+noncomputable def Utility.FirstPrice (i: a.I) : ℝ := if i = winner b then a.v i - b i else 0
+
+/-- If `i` is the winner in a first price auction, utility is their valuation minus their bid. -/
+lemma utility_first_price_winner(i: a.I) (H: i = winner b): Utility.FirstPrice b i = a.v i-b i := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:233]:
```suggestion
lemma utility_first_price_winner (i : a.I) (H : i = winner b) : Utility.FirstPrice b i = a.v i-b i := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 28]
```diff
@@ -0,0 +1,271 @@
...
+      simp only [gt_iff_lt, not_lt] at H1
+      rw [secondprice, ← H]
+      have := utility_nneg b i hb
+      exact le_add_of_nonneg_of_le this H1
+  · have := utility_nneg b i hb
+    convert this
+    simp [utility, H]
+
+/-- Computes the utility for a first price auction where the winner pays their bid. -/
+noncomputable def Utility.FirstPrice (i: a.I) : ℝ := if i = winner b then a.v i - b i else 0
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:230]:
```suggestion
noncomputable def Utility.FirstPrice (i : a.I) : ℝ := if i = winner b then a.v i - b i else 0
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 29]
```diff
@@ -0,0 +1,271 @@
...
+    apply Finset.sup'_le
+    simp only [Finset.mem_univ, Finset.mem_erase, and_true]
+    intro j _
+    rw [maxb]
+    simp only [Finset.le_sup'_iff, Finset.mem_univ, true_and]
+    use j
+  · rw[utility, if_neg H2]
+
+/-- Proves that the strategy of bidding one's valuation is a dominant strategy for `i`. -/
+theorem valuation_is_dominant (i : a.I ) : dominant i (a.v i) := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:193]:
```suggestion
theorem valuation_is_dominant (i : a.I) : dominant i (a.v i) := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 30]
```diff
@@ -0,0 +1,271 @@
...
+/-- Defines a dominant strategy in the context of a first price auction. -/
+def Dominant.FirstPrice (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b b': a.I → ℝ, (b i = bi) → (∀ j: a.I, j ≠ i → b j = b' j)
+  → Utility.FirstPrice b' i ≤ Utility.FirstPrice b i
+
+/-- Shows that there is no dominant strategy in a first price auction for any `i` and bid `bi`. -/
+theorem first_price_has_no_dominant_strategy (i: a.I) (bi: ℝ) : ¬(Dominant.FirstPrice i bi):= by
+  simp only [Dominant.FirstPrice, not_forall]
+  let b := fun j => if j = i then (bi:ℝ) else bi-2
+  let b':= fun j => if j = i then (bi-1:ℝ) else bi-2
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:252]:
```suggestion
  let b := fun j => if j = i then bi else bi - 2
  let b' := fun j => if j = i then bi - 1 else bi - 2
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 31]
```diff
@@ -0,0 +1,271 @@
...
+  use b, b'
+  simp only [ne_eq, exists_prop, ite_true, exists_const, true_and,b,b']
+  constructor
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:255]: This line introduces multiple goals. Each new goal should be indented and preceded by a focusing dot `·`.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 32]
```diff
@@ -0,0 +1,271 @@
...
+  intro j hj
+  simp only [if_false, hj]
+  have winner_b : i = winner b := by
+    apply gt_wins b i
+    intro j hj
+    simp [Ne.symm hj,b]
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:261]:
```suggestion
    simp [hj.symm, b]
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 33]
```diff
@@ -0,0 +1,271 @@
...
+  ∀ b b': a.I → ℝ, (b i = bi) → (∀ j: a.I, j ≠ i → b j = b' j)
+  → Utility.FirstPrice b' i ≤ Utility.FirstPrice b i
+
+/-- Shows that there is no dominant strategy in a first price auction for any `i` and bid `bi`. -/
+theorem first_price_has_no_dominant_strategy (i: a.I) (bi: ℝ) : ¬(Dominant.FirstPrice i bi):= by
+  simp only [Dominant.FirstPrice, not_forall]
+  let b := fun j => if j = i then (bi:ℝ) else bi-2
+  let b':= fun j => if j = i then (bi-1:ℝ) else bi-2
+  use b, b'
+  simp only [ne_eq, exists_prop, ite_true, exists_const, true_and,b,b']
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:254]: Some of these are unused.
```suggestion
  simp only [exists_prop, ite_true, true_and, b]
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 34]
```diff
@@ -0,0 +1,271 @@
...
+
+/-- If `i` is not the winner in a first price auction, their utility is 0. -/
+lemma utility_first_price_loser(i: a.I) (H: i ≠ winner b): Utility.FirstPrice b i = 0 := by
+  rw [Utility.FirstPrice]
+  simp only [H, if_false]
+
+
+/-- Defines a dominant strategy in the context of a first price auction. -/
+def Dominant.FirstPrice (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b b': a.I → ℝ, (b i = bi) → (∀ j: a.I, j ≠ i → b j = b' j)
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:245]: This pair of conditions `b i = bi` and `∀ j, j ≠ i → b j = b' j` comes up a few times. Should it be given a name?

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 35]
```diff
@@ -0,0 +1,271 @@
...
+
+/-- The bid of the winner is always greater than or equal to the second highest bid. -/
+lemma b_winner : secondprice b ≤ b (winner b) := by
+  have Hmax := winner_take_max b
+  rw [Hmax]
+  apply Finset.sup'_le
+  apply delete_i_nonempty
+  intro j _
+  apply Finset.le_sup'
+  simp only [Finset.mem_erase, Finset.mem_univ]
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:159]:
```suggestion
  rw [winner_take_max b]
  exact Finset.sup'_mono b (Finset.subset_univ _) (delete_i_nonempty (winner b))
```

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 24 above)
Comment (tb65536) [reply Mathlib/GameTheory/Auction/Secondprice.lean:108]: Beat me to it :) I was just about to suggest adding something like
```
lemma Finset.univ_nontrivial_iff {α : Type*} [Fintype α] :
    (Finset.univ : Finset α).Nontrivial ↔ Nontrivial α := by
  rw [Finset.Nontrivial, Finset.coe_univ, Set.nontrivial_univ_iff]

lemma Finset.univ_nontrivial {α : Type*} [Fintype α] [h : Nontrivial α] :
    (Finset.univ : Finset α).Nontrivial :=
  Finset.univ_nontrivial_iff.mpr h
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 36]
```diff
@@ -0,0 +1,290 @@
...
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop := ∀ b b' : a.I → ℝ,
+  (b i = bi) → (∀ j : a.I, j ≠ i → b j = b' j)
+   → utility b' i ≤ utility b i
+
+/-- `hole` represents a bidding function by setting the bid of participant `i` to `bi`, while other
+bids unchanged. -/
+noncomputable abbrev hole (i : a.I) (bi : ℝ) (b : a.I → ℝ) : a.I → ℝ :=
+  fun j => if j=i then bi else b j
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:103]: This already exists in the mathlib. It's called `Function.update`.
```suggestion
  Function.update b i bi
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 37]
```diff
@@ -0,0 +1,290 @@
...
+/-!### Helper Functions and Definitions -/
+/-- Computes the highest bid given a bidding function `b`. -/
+@[simp]
+def maxb : ℝ := Finset.sup' Finset.univ Finset.univ_nonempty b
+
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop := ∀ b b' : a.I → ℝ,
+  (b i = bi) → (∀ j : a.I, j ≠ i → b j = b' j)
+   → utility b' i ≤ utility b i
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:98]: I think this definition is equivalent, and it seems cleaner.
```suggestion
def dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop :=
  ∀ b, utility b i ≤ utility (Function.update b i bi) i
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 38]
```diff
@@ -0,0 +1,290 @@
...
+    apply Finset.sup'_le
+    intro i _
+    apply Finset.le_sup'
+    simp only [Finset.mem_univ]
+  have H2: maxb b ≤ B b i := by
+    rw [← winner_take_max b]
+    apply Finset.le_sup'
+    simp only [Finset.mem_univ, Finset.mem_erase, and_true]
+    exact (H.symm)
+  exact Real.partialOrder.proof_4 (B b i) (Finset.sup' Finset.univ maxb.proof_1 b) H1 H2
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:170]: Here's a golf (using `Finset.sup'_mono` to simplify the proof of `H1` and using `le_antisymm` instead of `Real.partialOrder.proof_4`).
```suggestion
  apply le_antisymm
  · apply Finset.sup'_mono
    exact Finset.erase_subset i Finset.univ
  · rw [← winner_take_max b]
    apply Finset.le_sup'
    exact Finset.mem_erase_of_ne_of_mem H.symm (Finset.mem_univ (winner b))
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 39]
```diff
@@ -0,0 +1,290 @@
...
+    rw [winner_take_max b]
+    apply sub_nonneg.mpr
+    rw [secondPrice]
+    apply Finset.sup'_le
+    simp only [Finset.mem_univ, Finset.mem_erase, and_true]
+    intro j _
+    rw [maxb]
+    simp only [Finset.le_sup'_iff, Finset.mem_univ, true_and]
+    use j
+  · rw[utility, if_neg H2]
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:203]: Here's a golf:
```suggestion
  rcases eq_or_ne i (winner b) with rfl | H2
  · rw [utility, if_pos rfl, ← H, winner_take_max b, sub_nonneg, secondPrice]
    apply Finset.sup'_mono
    exact Finset.erase_subset (winner b) Finset.univ
  · rw [utility, if_neg H2]
```

Comment (tb65536) [reply Mathlib/GameTheory/Auction/Secondprice.lean:203]: The fact `B b (winner b) ≤ maxb b` gets used in both `b_loser_max` and `utility_nneg`. Should it be extracted to it's own lemma?

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 40]
```diff
@@ -0,0 +1,290 @@
...
+noncomputable def utility (i : a.I) : ℝ := if i = winner b then a.v i - secondPrice b else 0
+
+/-! ### Proofs and Lemmas -/
+variable {i : a.I}
+/-- If `i` is the winner, then their utility is their valuation minus the second highest bid. -/
+lemma utility_winner (H: i = winner b) : utility b i = a.v i - secondPrice b:= by
+  rw [utility]; simp only [ite_true, H]
+
+/-- If `i` is not the winner, then their utility is 0. -/
+lemma utility_loser (i : a.I) (H : i≠ winner b) : utility b i = 0 := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:185]:
```suggestion
lemma utility_loser (H : i ≠ winner b) : utility b i = 0 := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 41]
```diff
@@ -0,0 +1,290 @@
...
+      · rw [h_secondprice_eq]
+    · rw [utility,← H]
+      simp only [ite_true, ge_iff_le, tsub_le_iff_right]
+      simp only [gt_iff_lt, not_lt] at H1
+      rw [secondPrice, ← H]
+      have := utility_nneg b i hb
+      exact le_add_of_nonneg_of_le this H1
+  · have := utility_nneg b i hb
+    convert this
+    simp [utility, H]
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:240]: Here's a golf using the cleaner definition of `dominant`:
```suggestion
  intro b
  have key : B (Function.update b i (a.v i)) i = B b i :=
    (Finset.sup'_congr _ rfl fun j hj ↦ dif_neg (Finset.ne_of_mem_erase hj))
  by_cases h1 : i = winner b
  · rw [utility_winner b h1, secondPrice, ← h1, ← key]
    by_cases h2 : i = winner (Function.update b i (a.v i))
    · rw [utility_winner _ h2, sub_le_sub_iff_left, secondPrice, ← h2]
    · rw [utility_loser _ h2, sub_nonpos, b_loser_max _ h2]
      conv_lhs => rw [← Function.update_same i (a.v i) b]
      exact Finset.le_sup' _ (Finset.mem_univ i)
  · rw [utility_loser b h1]
    apply utility_nneg
    apply Function.update_same
```

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 36 above)
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean:103]: It is a huge shock to me. Thanks for your suggestion!

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 42]
```diff
@@ -0,0 +1,254 @@
...
+
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b, utility b i ≤ utility (Function.update b i bi) i
+
+/-- `hole` represents a bidding function by setting the bid of participant `i` to `bi`, while other
+bids unchanged. -/
+noncomputable abbrev hole (i : a.I) (bi : ℝ) (b : a.I → ℝ) : a.I → ℝ :=
+  Function.update b i bi
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:103]: There's no need to keep this around since it's no longer used.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 43]
```diff
@@ -0,0 +1,254 @@
...
+  rw [utility]
+  simp only [H, if_false]
+
+/-- Defines a dominant strategy in the context of a first price auction. -/
+def dominant (i : a.I) (bi : ℝ) : Prop :=
+  ∀ b b' : a.I → ℝ, (b i = bi) → (∀ j: a.I, j ≠ i → b j = b' j)
+  → utility b' i ≤ utility b i
+
+/-- Shows that there is no dominant strategy in a first price auction for any `i` and bid `bi`. -/
+theorem firstprice_auction_has_no_dominant_strategy (i : a.I) (bi : ℝ) : ¬ dominant i bi := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:229]: Why not use the existing `dominant` definition?
```suggestion
theorem firstprice_auction_has_no_dominant_strategy (i : a.I) (bi : ℝ) : ¬ dominant utility i bi := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 44]
```diff
@@ -0,0 +1,254 @@
...
+      intro j hj
+      simp [hj.symm, b]
+    have winner_b' : i = winner b' := by
+      apply gt_wins b' i
+      intro j hj
+      simp only [b, b', ite_true, hj.symm, ite_false, gt_iff_lt, sub_lt_sub_iff_left]
+      exact one_lt_two
+    have h1 := utility_winner b i winner_b
+    have h2 := utility_winner b' i winner_b'
+    simp [h1, h2, b, b']
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:250]: If you change `gt_wins` to
```
lemma gt_wins (i : a.I) (H : ∀ j , j ≠ i → b j < b i) : i = winner b := by
  contrapose! H
  exact ⟨winner b, H.symm, b_winner_max b i⟩
```
then you can golf this down to three lines:
```
theorem firstprice_auction_has_no_dominant_strategy (i : a.I) (bi : ℝ) : ¬ dominant utility i bi := by
  rw [dominant, not_forall]
  use Function.update (fun _ ↦ (bi - 2)) i (bi - 1)
  rw [utility, utility, if_pos (gt_wins _ i _), if_pos (gt_wins _ i _)] <;> intros <;> simp [*]
```

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 39 above)
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean]: Nice suggestion!

**Review by tb65536 — COMMENTED** [review]
I think some reorganization would be helpful. For instance, first define `maxb`, then state its lemmas (`exists_max`, `winner`, `winner_take_max`, `b_winner_max`, `gt_wins`), then define `dominant`, then the `Firstprice` stuff, and finally the more complicated `Secondprice` stuff. The `Finset` lemmas should get moved to an earlier file, and perhaps `maxb` as well.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 45]
```diff
@@ -0,0 +1,205 @@
...
+attribute [instance] Auction.hF Auction.hI
+
+namespace Auction
+
+variable {a : Auction} (b : a.I → ℝ)
+
+/-!### Helper Functions and Definitions -/
+/-- Computes the highest bid given a bidding function `b`. -/
+@[simp]
+def maxb : ℝ := Finset.sup' Finset.univ Finset.univ_nonempty b
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:85]: Some of these names will need to be changed. For instance the names `maxb`, `b_winner_max`, `b_winner`, `b_winner_le_maxb`, and `b_loser_max` make reference to the variable name `b`, which is not ideal since the meaning will not be clear to someone seeing these names from outside the file. Here's one list of possibilities, but feel free to think about other options.
`maxb` -> `maxBid`
`exists_max` -> `exists_maxBad` or `exists_eq_maxBid` or `exists_bid_eq_maxBid`
`winner_take_max` -> `bid_winner` or `bid_winner_eq_maxBid`
`b_winner_max` -> `bid_le_bid_winner`
`gt_wins` -> `eq_winner_of_bid_gt` (or similar; I'm not sure what's best here)

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 46]
```diff
@@ -0,0 +1,208 @@
...
+  <;> intros <;> simp [*]
+
+end Firstprice
+
+/-- `maxBidExcluding i` is the maximal bid of all participants but `i`. -/
+noncomputable def maxBidExcluding (i : a.I) : ℝ := Finset.sup' (Finset.erase Finset.univ i)
+(Finset.Nontrivial.erase_nonempty (Finset.univ_nontrivial)) b
+
+/--The second highest bid: the highest bid excluding the winner’s bid.-/
+noncomputable def Secondprice : ℝ := maxBidExcluding b (winner b)
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:146]: I think this should be lower camel case, unless you're viewing it as one word (https://leanprover-community.github.io/contribute/naming.html).
```suggestion
noncomputable def secondPrice : ℝ := maxBidExcluding b (winner b)
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 47]
```diff
@@ -0,0 +1,208 @@
...
+
+namespace Secondprice
+
+/-- The bid of the winner is always greater than or equal to the second highest bid. -/
+lemma winnerbid_ge_second : Secondprice b ≤ b (winner b) := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:151]: Would it be simpler to use `maxBid` instead of `b (winner b)`? Also, can this lemma be deduced from `maxBidExcluding_le_maxBid`?

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 48]
```diff
@@ -0,0 +1,208 @@
...
+  rw [bid_winner_eq_maxBid b]
+  exact Finset.sup'_mono b (Finset.subset_univ _)
+    (Finset.Nontrivial.erase_nonempty (Finset.univ_nontrivial))
+
+/-- The bid of the winner is always greater than or equal to the second highest bid. -/
+lemma maxBidExcluding_le_maxBid {i : a.I}(b : a.I → ℝ): maxBidExcluding b i ≤ maxBid b := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:157]:
```suggestion
lemma maxBidExcluding_le_maxBid {i : a.I} (b : a.I → ℝ) : maxBidExcluding b i ≤ maxBid b := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 49]
```diff
@@ -0,0 +1,208 @@
...
+which is their valuation minus the second highest bid if `i` is the winner, otherwise, it's 0. -/
+noncomputable def utility (i : a.I) : ℝ := if i = winner b then a.v i - Secondprice b else 0
+
+variable {i : a.I}
+/-- If `i` is the winner, then their utility is their valuation minus the second highest bid. -/
+lemma utility_winner (H: i = winner b) : utility b i = a.v i - Secondprice b:= by
+  rw [utility]; simp only [ite_true, H]
+
+/-- If `i` is not the winner, then their utility is 0. -/
+lemma utility_loser (H : i≠ winner b) : utility b i = 0 := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Secondprice.lean:180]:
```suggestion
lemma utility_loser (H : i ≠ winner b) : utility b i = 0 := by
```

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 47 above)
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean]: I don‘t think `winnerbid_ge_second` should be kept any longer. The lemma has been proved to be exactly the same thing as `maxBidExcluding_le_maxBid`. It has been removed in the latest version

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 50]
```diff
@@ -0,0 +1,203 @@
...
+/-- The Auction structure is set with components including: -/
+structure Auction where
+   /-- A set of participants.-/
+   I : Type*
+   /-- A `Fintype` instance. -/
+   hF : Fintype I
+   /-- An `Nontrivial` instance. -/
+   hI : Nontrivial I
+   /-- A function mapping each participant to their valuation. -/
+   v : I → ℝ
```
Comment (Shreyas4991) [inline Mathlib/GameTheory/Auction/Secondprice.lean:75]: valuation functions appear in many places in game theory, outside auctions, including voting theory, and fair division theory. It might be useful from a mathlib perspective to factor out valuation functions and the various properties they could have. A more general valuation function would map each participant and some item from a type of items to a real number. Even in auction theory, there are auctions on bundles of items. A general form of auction functions would look like `AgentType → Set (ItemType) → ℝ`. Again take this with a pinch of salt. In mathlib a general definition that can be more widely used is helpful. Further this also belongs in the aforementioned `Basic.lean` file

**Review by Shreyas4991 — COMMENTED** [review]
Thanks. I am happy to see some computer sciencey material in mathlib. I am not a maintainer so please take my review comments as mere suggestions for consideration.

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 50 above)
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean:75]: Yes,  shreyas! This is just what I am planned to do. I have already finished the formalization of Myerson's Lemma which proves to be a more generalize lemma and also widely used in many mechanism design not just auction. I am planned to do so after the successful merge of the formalization of First-price and Second-price auction.

File: Mathlib/Data/Fintype/Basic.lean [hunk 51]
```diff
@@ -114,6 +114,14 @@ theorem univ_eq_empty_iff : (univ : Finset α) = ∅ ↔ IsEmpty α := by
...
 #align finset.univ_eq_empty_iff Finset.univ_eq_empty_iff
 
+theorem univ_nontrivial_iff [Fintype α] :
+    (Finset.univ : Finset α).Nontrivial ↔ Nontrivial α := by
+  rw [Finset.Nontrivial, Finset.coe_univ, Set.nontrivial_univ_iff]
+
+theorem univ_nontrivial [Fintype α] [h : Nontrivial α] :
+    (Finset.univ : Finset α).Nontrivial :=
+  univ_nontrivial_iff.mpr h
+
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Fintype/Basic.lean:124]: The way it works is as follows :
1. You open a PR to add these two functions. 
2. You add a check list to this PR where you mention the other PR. 
3. Your PR branch is rebased on the branch of the other PR.

Alternatively and more simply:
1. Start the other PR (let's call it PR2)  separately
2. Add the checklist as above. But don't remove these two functions yet in this PR (let's call it PR1).
3. Continue working on PR1 as you like  until PR2 is merged. 
4. When PR2 is merged delete the two theorems from this PR and perform a merge with master.
5. After this merge with master, you will have these two theorems in mathlib and you can use them as is without making them part of PR1 (this PR).

[the remark this answers is not in the document]
Comment (hcWang942) [reply Mathlib/Data/Fintype/Basic.lean:124]: Alright I have made another PR [https://github.com/leanprover-community/mathlib4/pull/14163](url).
Grateful for your kind advice!

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 52]
```diff
@@ -0,0 +1,203 @@
...
+first-price and second-price auctions, as well as several fundamental results and helping lemmas.
+
+## Main Definitions
+
+- `Auction`: Defines an auction with bidders and their valuations.
+- `maxBid`: Function that computes the highest bid given a bidding function.
+- `winner`: Identifies the winner of the auction as the bidder with the highest bid.
+- `maxBidExcluding`: Function that computes the highest bid excluding a given participant.
+- `dominant`: Defines a dominant strategy in the context of a auction.
+- `Secondprice`: Computes the second highest bid in the auction.
```
[the remark this answers is not in the document]
Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Secondprice.lean:23]: I have changed the file name to `Basic.lean` to store the current elements of auction theory in one place. Rather than add a new file contains all the basic definitions in `Basic.lean` other than `SecondPrice.lean` is because that this content does not yet encompass numerous theorems. 

This way, all related theorems can reside in `Basic.lean` for future modifications and additions.

[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Secondprice.lean:23]: It is okay to have few theorems. The idea is, if I want to work on auctions, I shouldn't have to include second price auction stuff unless I need it.

**Comment by tb65536** [comment]
Can you fix the build issue?

**Comment by Shreyas4991** [comment]
Now you need to remove those Fintype lemmas and merge with master. This should remove the merge conflict @hcWang942

**Comment by hcWang942** [comment]
> Now you need to remove those Fintype lemmas from this PR and merge with master. This should remove the merge conflict @hcWang942

Noted! I am working on it.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 53]
```diff
@@ -0,0 +1,203 @@
...
+/-!### Structure Definition -/
+
+/-- The Auction structure is set with components including: -/
+structure Auction where
+   /-- A set of participants.-/
+   I : Type*
+   /-- A `Fintype` instance. -/
+   hF : Fintype I
+   /-- An `Nontrivial` instance. -/
+   hI : Nontrivial I
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:73]: I'm very suspicious of these fields; it's quite uncommon to put typeclasses inside structures, and it doesn't seem anything in this file is actually doing things in a way where this matters.

A more typical spelling would be
```suggestion
/-- The Auction structure for participants `I` -/
structure Auction (I : Type*) [Fintype I] [Nontrivial I] where
```
and then you'd use `variable (I : Type*) [Fintype I] [Nontrivial I]` below and `i : I` instead of `i : a.I`.

File: Mathlib/GameTheory/Auction/Secondprice.lean [hunk 54]
```diff
@@ -0,0 +1,203 @@
...
+  exact Finset.le_sup' b (Finset.mem_univ j)
+
+/-- If `i`'s bid is higher than all other bids, then `i` is the winner. -/
+lemma eq_winner_of_bid_gt (i : a.I) (H : ∀ j , j ≠ i → b j < b i) : i = winner b := by
+  contrapose! H
+  exact ⟨winner b, H.symm, bid_le_bid_winner b i⟩
+
+/-- A strategy is dominant if bidding `bi` ensures that
+`i`'s utility is maximized relative to any other bids `b'` where `b i = bi`. -/
+def dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop :=
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Secondprice.lean:111]: The naming convention says
```suggestion
def Dominant (utility : (a.I → ℝ) → a.I → ℝ) (i : a.I) (bi : ℝ) : Prop :=
```
since this is a `Prop`

File: Mathlib/GameTheory/Auction/Secondprice.lean (hunk 53 above)
Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Secondprice.lean:73]: Seconded. See my gist in the other thread for an example

**Comment by hcWang942** [comment]
Hi guys, I am currently planning to start another PR for Myerson's lemma in Game theory. But this must be after the merge of this PR, so may I know is there any change I need to make?

File: docs/references.bib [hunk 55]
```diff
@@ -3385,3 +3396,4 @@ @Article{         zorn1937
   doi           = {10.1090/S0002-9904-1937-06565-7},
   url           = {https://doi.org/10.1090/S0002-9904-1937-06565-7}
 }
+}
```
Comment (tb65536) [inline docs/references.bib:3399]: I think this is a mistake?

Comment (hcWang942) [reply docs/references.bib:3423]: Yes, the bracket is redundant

Comment (hcWang942) [reply docs/references.bib]: Hi, Thomas. All the problem is fixed. Please help me to proceed the merge! THX ;)

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 56]
```diff
@@ -58,8 +58,10 @@ logic to handle potential non-constructive cases effectively.
 auction, game theory, economics, bidding, valuation
 -/
 
+open Classical
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Basic.lean:61]: This is almost always a bad idea. Can you add the `DecidableEq` on just the lemmas that need it, rather than adding this globally?

Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Basic.lean]: Hi, Eric. This has been solved, how about the latest version look like.

Comment (hcWang942) [reply Mathlib/GameTheory/Auction/Basic.lean]: @eric-wieser Hi eric! May I know if there is anything I should modify? 

Next week I am planning to introduce and discuss my plan of formalization of Game Theory in a Workshop at PKU. So it would be helpful to see the first PR is successfully merged. May you please assist me to proceed with it? Grateful!

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 57]
```diff
@@ -0,0 +1,193 @@
...
+
+This file formalizes core concepts and results in auction theory. It includes the definitions of
+first-price and second-price auctions, as well as several fundamental results and helping lemmas.
+
+## Main Definitions
+
+- `maxBid`: Function that computes the highest bid given a bidding function.
+- `winner`: Identifies the winner of the auction as the bidder with the highest bid.
+- `maxBidExcluding`: Function that computes the highest bid excluding a given participant.
+- `dominant`: Defines a dominant strategy in the context of a auction.
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:21]:
```suggestion
- `Dominant`: Defines a dominant strategy in the context of a auction.
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 58]
```diff
@@ -0,0 +1,193 @@
...
+- `Secondprice`: Computes the second highest bid in the auction.
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:22]:
```suggestion
- `secondPrice`: Computes the second highest bid in the auction.
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 59]
```diff
@@ -0,0 +1,193 @@
...
+- `utility_nneg`: Utility is non-negative if the bid equals the valuation in second price auction.
+- `valuation_is_dominant`: Bidding one's valuation is a dominant strategy in second price auction.
+- `first_price_has_no_dominant_strategy`: There is no dominant strategy in first price auction.
+
+## Helping Lemmas
+
+- `eq_winner_of_bid_gt`: If `i`'s bid is higher than all other bids, then `i` wins.
+- `exists_maxBid`: There exists a participant whose bid matches the highest bid
+- `bid_winner_eq_maxBid`: The winner's bid is the highest.
+- `winnerbid_ge_second`: The winner's bid is at least the second highest bid.
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:37]: Is this lemma still around?

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 60]
```diff
@@ -0,0 +1,193 @@
...
+/-- The bid of the winner equals the highest bid. -/
+lemma bid_winner_eq_maxBid : b (winner b) = maxBid b := Classical.choose_spec (exists_maxBid b)
+
+/-- The bid of the winner is always greater than or equal to the bids of all others.-/
+lemma bid_le_bid_winner (j : I) : b j ≤ b (winner b) := by
+  rw [bid_winner_eq_maxBid b]
+  exact Finset.le_sup' b (Finset.mem_univ j)
+
+/-- If `i`'s bid is higher than all other bids, then `i` is the winner. -/
+lemma eq_winner_of_bid_gt (i : I) (H : ∀ j , j ≠ i → b j < b i) : i = winner b := by
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:91]: `lt` might be a better name since that is what appears in the statement of the lemma?
```suggestion
lemma eq_winner_of_bid_lt (i : I) (H : ∀ j , j ≠ i → b j < b i) : i = winner b := by
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 61]
```diff
@@ -0,0 +1,193 @@
...
+  ∀ b, utility b i ≤ utility (Function.update b i bi) i
+
+/-! ### Proofs and Lemmas -/
+
+namespace Firstprice
+
+/-- Computes the utility for a first price auction where the winner pays their bid. -/
+@[simp]
+noncomputable def utility [DecidableEq I] (v b : I → ℝ) (i : I) : ℝ :=
+    if i = winner b then v i - b i else 0
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:109]:
```suggestion
  if i = winner b then v i - b i else 0
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 62]
```diff
@@ -0,0 +1,193 @@
...
+def Dominant (utility : (I → ℝ) → I → ℝ) (i : I) (bi : ℝ) : Prop :=
+  ∀ b, utility b i ≤ utility (Function.update b i bi) i
+
+/-! ### Proofs and Lemmas -/
+
+namespace Firstprice
+
+/-- Computes the utility for a first price auction where the winner pays their bid. -/
+@[simp]
+noncomputable def utility [DecidableEq I] (v b : I → ℝ) (i : I) : ℝ :=
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:108]: Can you remove `DecidableEq` now that you have it as a variable?
```suggestion
noncomputable def utility (v b : I → ℝ) (i : I) : ℝ :=
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 63]
```diff
@@ -0,0 +1,193 @@
...
+  apply le_antisymm
+  · exact maxBidExcluding_le_maxBid b
+  · rw [← bid_winner_eq_maxBid b]
+    apply Finset.le_sup'
+    exact Finset.mem_erase_of_ne_of_mem H.symm (Finset.mem_univ (winner b))
+
+/-- Defines the utility of participant `i`,
+which is their valuation minus the second highest bid if `i` is the winner, otherwise, it's 0. -/
+noncomputable def utility [DecidableEq I] (v b : I → ℝ) (i : I) : ℝ :=
+    if i = winner b then v i - secondPrice b else 0
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:158]:
```suggestion
  if i = winner b then v i - secondPrice b else 0
```

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 64]
```diff
@@ -0,0 +1,193 @@
...
+    maxBidExcluding b i = maxBid b := by
+  apply le_antisymm
+  · exact maxBidExcluding_le_maxBid b
+  · rw [← bid_winner_eq_maxBid b]
+    apply Finset.le_sup'
+    exact Finset.mem_erase_of_ne_of_mem H.symm (Finset.mem_univ (winner b))
+
+/-- Defines the utility of participant `i`,
+which is their valuation minus the second highest bid if `i` is the winner, otherwise, it's 0. -/
+noncomputable def utility [DecidableEq I] (v b : I → ℝ) (i : I) : ℝ :=
```
Comment (tb65536) [inline Mathlib/GameTheory/Auction/Basic.lean:157]: Likewise, is this necessary?
```suggestion
noncomputable def utility (v b : I → ℝ) (i : I) : ℝ :=
```

Comment (eric-wieser) [reply Mathlib/GameTheory/Auction/Basic.lean:157]: Can drop the `noncomputable` too I think

**Comment by hcWang942** [comment]
Good day, Eric! Could you please review if this PR need some more modification? Since my talk session is arranged tomorrow, it is great to mention this PR process is successfully merged. 

I have a kind talk with Riccardo Brasca and he said reviewers have some previous discussion on this topic on Zulip. Tag you to inquire the process would be a better way. Anyway thank you for your efforts!
 @eric-wieser

**Comment by urkud** [comment]
I'm sorry that you have to wait for a long time. The main issue with this PR is that none of the current Mathlib maintainers is an expert in this area. We're trying to resolve this issue one way or another.

Do you have plans to formalize more advanced facts? If yes, what facts are you aiming for?

What do you think about giving a general definition of a game (what name should we use to avoid confusion with set theory games?) instead of building parallel APIs in 2 namespaces? This way you can define utility, pure and mixed strategies etc, then define `firstPriceAuction (α : Type*) [Fintype α] : SomePrefixGame (Option α)`. While this approach requires more work at the start, it will make generic definitions (e.g., `IsNashEquilibrium` or `IsDominating`) apply to auctions.

@vihdzp What do you think about names?

**Comment by vihdzp** [comment]
I doubt we'll ever have both namespaces open at once, the theories are very distinct from what little I know. It should be fine having something like `Auction.Game`.

**Comment by urkud** [comment]
`Auction` is too specific. There are many other kinds of games in this theory. `GameTheory`?

**Comment by Shreyas4991** [comment]
> I'm sorry that you have to wait for a long time. The main issue with this PR is that none of the current Mathlib maintainers is an expert in this area. We're trying to resolve this issue one way or another.
> 
> Do you have plans to formalize more advanced facts? If yes, what facts are you aiming for?
> 
> What do you think about giving a general definition of a game (what name should we use to avoid confusion with set theory games?) instead of building parallel APIs in 2 namespaces? This way you can define utility, pure and mixed strategies etc, then define `firstPriceAuction (α : Type*) [Fintype α] : SomePrefixGame (Option α)`. While this approach requires more work at the start, it will make generic definitions (e.g., `IsNashEquilibrium` or `IsDominating`) apply to auctions.
> 
> @vihdzp What do you think about names for set theory games vs game theory/economics/social choice games?

These are completely different sorts of games.

**Comment by vihdzp** [comment]
`GameTheory` seems fine. I've only ever heard the stuff in `SetTheory` being referred to as *combinatorial* game theory with the extra qualifier.

**Comment by faenuccio** [comment]
Would it be possible to add more pointers to the reference, linking the results that you prove in this file to what is to be found in the book you quote?

**Comment by hcWang942** [comment]
> `GameTheory` seems fine. I've only ever heard the stuff in `SetTheory` being referred to as _combinatorial_ game theory with the extra qualifier.

I agree. As `combinatorial game theory` is often used to describe game theory problems that involve clear rules and strategic analysis. These problems typically involve finite, deterministic games, such as board games or other strategy games. 

On the other hand, `GameTheory` is more general that encompasses studies involving mechanic design and strategic interactions in fields like economics. As my current plan involves Myerson's Lemma and mechanism design, then using `GameTheory` might be more appropriate.

**Comment by hcWang942** [comment]
> `Auction` is too specific. There are many other kinds of games in this theory. `gameTheory`?

Actually `auctions` are just one specific application within `gameTheory`. `gameTheory` encompasses many other types of games and strategic interactions, including but not limited to mechanism design, game equilibria, and cooperative games.

For instance, `myersonsLemma` is also an important result in `gameTheory`, particularly in the field of mechanism design, which we have almost finished and pending for modification to Mathlib standard. It provides a method for designing **incentive compatible** mechanisms that allow participants to maximize their individual interests while also achieving the overall objectives desired by the designer. In doing so, `myersonsLemma` helps address issues of information asymmetry and incentive compatibility, making mechanism design widely applicable in areas such as auctions, public goods provision, and contract design.

For more of our plan, we have tried to 'sell' the plan formalised economic-related theorems to economist. I think we should spend more effort to address their attention and interests.

**Comment by hcWang942** [comment]
> Would it be possible to add more pointers to the reference, linking the results that you prove in this file to what is to be found in the book you quote?

Hi, Filippo. It's great see you view our PR. I have attached the main reference of mine to the description of this PR. Since we are a group of students contributing to formalising `gameTheory`. We might use different references. I will check with my group members and update others'.

**Comment by hcWang942** [comment]
> I doubt we'll ever have both namespaces open at once, the theories are very distinct from what little I know. It should be fine having something like `Auction.Game`.

In my personal view, `gameTheory/Auction/Basic.lean`,`gameTheory/Myerson/Basic.lean`,`gameTheory/Nash/Basic.lean` might be fine? Note that almost all specific field have a file named `Basic.lean`.

**Comment by urkud** [comment]
> > I doubt we'll ever have both namespaces open at once, the theories are very distinct from what little I know. It should be fine having something like `Auction.Game`.
> 
> In my personal view, `gameTheory/Auction/Basic.lean`,`gameTheory/Myerson/Basic.lean`,`gameTheory/Nash/Basic.lean` might be fine? Note that almost all specific field have a file named `Basic.lean`.

We were discussing namespaces, not file paths.

**Comment by urkud** [comment]
I suggest that you start with defining a game as something like
```
namespace GameTheory

universe u -- or should we drop universe polymorphism in this theory?

structure Game (Player : Type u) where
  /-- The type of possible strategies of a player. -/
  Strategy : Player → Type u
  /-- If each player chooses a strategy, then player `p` wins `payout f p`. -/
  payout : ((p : Player) → Strategy p) → Player → ℝ
```

Then you can define auction as

```
/-- Scheme of an auction with a single prize.

This formalization assumes that only the winner pays a price,
i.e., there are no entrance fees etc. -/
structure AuctionScheme (Player : Type u) where
  /-- Who gets the prize. -/
  winner (bid : Player → ℝ) : Player
  /-- How much does the winner pay for the prize. -/
  price (bid : Player → ℝ) : ℝ

def AuctionScheme.toGame {Player : Type u} (scheme : AuctionScheme Player)
    (utility : Player → ℝ) : Game Player where
  Strategy _ := ℝ
  payout (bid : Player → ℝ) (p : Player) := Pi.single (scheme.winner bid) (utility p - scheme.price p)
```

The first price auction and the second price auction can be defined as specific `AuctionScheme`s. Some definitions (e.g., `DominantStrategy`) can be given for any game, then used in theorems for these auctions.

**Comment by Shreyas4991** [comment]
@urkud : although dominant strategy is a common concept, it's definitions vary depending on the ambient context. I think having a common namespace called `GameTheory` would be a mistake unless there are further namespaces, such as `AuctionTheory` in this case. Also it might help to put all this in a `Mathlib` namespace to make it easy for downstream users to use similar names for different contexts.

**Comment by urkud** [comment]
> @urkud : although dominant strategy is a common concept, it's definitions vary depending on the ambient context.

Could you please provide more details? What example doesn't agree with this?
```lean
def Game.Strategy.IsDominant {Player : Type} (g : Game Player) (p : Player) (s : g.Strategy p) : Prop :=
  ∀ s' t, g.payout t p ≤ g.payout (Function.update t p s') p
```

**Comment by urkud** [comment]
> @urkud : I think having a common namespace called `GameTheory` would be a mistake unless there are further namespaces, such as `AuctionTheory` in this case.

I claim that `Auction` should be a special case of a `Game`, with different auctions (first price, second price etc) being `def`s of type `Auction`. Then facts about auctions will naturally go to `GameTheory.Auction`, while general facts will go to `GameTheory.Game`.

**Comment by Shreyas4991** [comment]
> > @urkud : although dominant strategy is a common concept, it's definitions vary depending on the ambient context.
> 
> Could you please provide more details? What example doesn't agree with this?
> ```lean
> def Game.Strategy.IsDominant {Player : Type} (g : Game Player) (p : Player) (s : g.Strategy p) : Prop :=
>   ∀ s' t, g.payout t p ≤ g.payout (Function.update t p s') p
> ```
I think it is too deeply tied to a specific kind of normal form game. In an extensive form game or an iterated game, players could have perfect or imperfect information about the previous actions of the other players. This definition of domination is too tightly coupled with one form of games. 

Generalising the definition of games too much might make it clunky to work. I would put your definitions under a namespace called `Normal Form Games`.

**Comment by urkud** [comment]
Any game with multiple states, imperfect information etc can be represented as a `Game` in the sense of above definition (i.e., you can have structures describing a specific type of a game, then have `toGame` function). I don't know whether it should be called `Game` or `NormalFormGame`. However, I'm sure that definitions that can be given in this generality, should be given in this generality.

**Comment by Shreyas4991** [comment]
> Any game with multiple states, imperfect information etc can be represented as a `Game` in the sense of above definition (i.e., you can have structures describing a specific type of a game, then have `toGame` function). I don't know whether it should be called `Game` or `NormalFormGame`. However, I'm sure that definitions that can be given in this generality, should be given in this generality.


I am a bit short of time. @urkud  I looked at your definitions and I can see that the definitions could be generalised like this. But it is hard to be certain that this generality is convenient and covers everything, since the field is vast and studied by different departments. Changing it later can be a headache because all theorems would have to be fixed. Therefore, I request that the PR include good instantiations of different kinds of games and auctions before it is accepted. In other words, I think the definitions need to be battle-tested first. 

Since I don't have the time to do this, I recommend the following highly regarded books, one from Econ people and one from TCS people:
1. From the econ side, there is [Ariel Rubinstein and Martin Osborne's book](https://books.google.de/books?id=5ntdaYX4LPkC&printsec=frontcover&redir_esc=y#v=onepage&q&f=false)
2. From the CS side, [the book by Noam Nisan et al on Algorithmic Game Theory](https://www.cs.cmu.edu/~sandholm/cs15-892F13/algorithmic-game-theory.pdf)

The AGT book (2) is more extensive and treates combinatorial auctions in Chapter 11

**Comment by urkud** [comment]
Given that other parts of the library will probably never depend on this, I suggest that we create a new repository instead of pushing it to Mathlib right away. I can create `leanprover-community/GameTheory` this weekend, then push some basic theory there. @hcWang942 What do you think about this?

**Comment by hcWang942** [comment]
> > @urkud : I think having a common namespace called `GameTheory` would be a mistake unless there are further namespaces, such as `AuctionTheory` in this case.
> 
> I claim that `Auction` should be a special case of a `Game`, with different auctions (first price, second price etc) being `def`s of type `Auction`. Then facts about auctions will naturally go to `GameTheory.Auction`, while general facts will go to `GameTheory.Game`.

I think it is not too bad to create a new repo to store the theorems. As you said other parts of the library will probably not depend on this, at least 最近的一段时间. 但我们希望能在仓库内部创造相关的依赖关系。我们团队的近日招募了五位新的本科生，我们将会在不久的将来持续为这一事情进行努力。

我认为GameTheory中的许多理论对Mechanism Design都有很大的帮助，而如今Pure Math在Mathlib库中不断充盈，我相信进一步完善更多Applied将会是一个好的方向，相信也会有着不错的应用前景，不过这都要等到把formalize的内容足够多后才会有所成效。The development of Lean has been notably neglected by economists. Our project aims to bridge this gap.

**Comment by hcWang942** [comment]
> Given that other parts of the library will probably never depend on this, I suggest that we create a new repository instead of pushing it to Mathlib right away. I can create `leanprover-community/GameTheory` this weekend, then push some basic theory there. @hcWang942 What do you think about this? This will make it easier to experiment with API and add results without going through Mathlib review process.
> 
> Of course, "pure math" results that are useful for game theory/auction theory (e.g., Brouwer fixed-point theorem) should go to Mathlib.

I agree that creating a new repo to store the theorems is not a bad idea. As you mentioned, other parts of the Mathlib probably won't depend on this, at least in the near future. However, we hope to create relevant dependencies within the repository. Our team recently recruited five new undergraduates, and we will continue to work on this in the near future.

I believe that many theories in Game Theory are very helpful for Mechanism Design, and as Pure Math continues to expand in the Mathlib library, I think further improving more Applied areas will be a good direction. I believe it will also have good application prospects, although this will only be effective after we have formalized enough content. The development of Lean has been notably neglected by economists. Our project aims to bridge this gap.

**Comment by hcWang942** [comment]
> > Given that other parts of the library will probably never depend on this, I suggest that we create a new repository instead of pushing it to Mathlib right away. I can create `leanprover-community/GameTheory` this weekend, then push some basic theory there. @hcWang942 What do you think about this? This will make it easier to experiment with API and add results without going through Mathlib review process.
> > Of course, "pure math" results that are useful for game theory/auction theory (e.g., Brouwer fixed-point theorem) should go to Mathlib.
> 
> I like this idea. If @hcWang942 agrees, my fair division PR could also go to this new repository.

Sure! It's great to see that we can make` GameTheory` more complete and better!

**Comment by hcWang942** [comment]
By the way, one more question is do I need to fix the entire structure before the maintainer adds it to the new repo? 

Moreover, may I have the maintaining rights to the new `GameTheory` repo? This would make it easier for me and my team to contribute to the entire repo. Thx @urkud

**Comment by urkud** [comment]
Let's discuss the editorial policy of the new repo early next week. I'm busy at my day job right now.

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 65]
```diff
@@ -0,0 +1,192 @@
...
+
+namespace Auction
+
+/- `b` is the bidding function that maps participant to a real number bid. -/
+variable (b : I → ℝ)
+
+/-!### Helper Functions and Definitions -/
+/-- Computes the highest bid given a bidding function `b`. -/
+@[simp]
+def maxBid : ℝ := Finset.sup' Finset.univ Finset.univ_nonempty b
```
Comment (YaelDillies) [inline Mathlib/GameTheory/Auction/Basic.lean:71]: ... this is a bit idiosyncratic and if you are to include this in mathlib then you shouldn't make this definition

**Review by YaelDillies — COMMENTED** [review]
Just to slightly push back on the new repo idea, I think that this material could definitely belong to mathlib, but eg...

File: Mathlib/GameTheory/Auction/Basic.lean [hunk 66]
```diff
@@ -0,0 +1,192 @@
...
+
+/-- There exists a participant `i` whose bid equals the highest bid. -/
+lemma exists_maxBid : ∃ i : I, b i = maxBid b := by
+   obtain ⟨i, _, h2⟩ := Finset.exists_mem_eq_sup' Finset.univ_nonempty b
+   exact ⟨i, symm h2⟩
+
+/-- winner: The participant with the highest bid. -/
+noncomputable def winner : I := Classical.choose (exists_maxBid b)
```
Comment (eric-wieser) [inline Mathlib/GameTheory/Auction/Basic.lean:79]: Relating to @YaelDillies' comment: I think the crux of the difficulty of this PR is that it introduces new definitions like `maxBid` and `winner` which are really just unusual names for functions which could be called `max` and `someArgMax`.

Yury's suggestion to abstract further provides another solution to this issue.

Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Basic.lean:79]: These names are absolutely not unusual in the field.

Comment (YaelDillies) [reply Mathlib/GameTheory/Auction/Basic.lean:79]: Sure but mathlib is not meant to be super-tailored to a specific field. In particular, we definitely don't want to have a differently-named-but-otherwise-identical function for each field that uses it! One solution here is to use notation instead. 

Also note that this is basically the only problem with this PR, so I think it is worth solving this way.

Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Basic.lean:79]: Two points:
1. Notation that looks like a def name could result people applying tactics with that name and failing.

2. I see a lot of value in developing this theory and a lot of TCS, econ, physics etc (and this is definitely TCS). We are not accustomed to the whole "generalise as much as possible" philosophy of math and thus don't have standard battle tested definitions. In a way this works bette for us as these abstractions only add a layer of unnecessary and uninsightful jargon. Thus rushing a definition that may or may not be ergonomic into mathlib might result in a suboptimal outcome. 

3. As Yury points out, there are likely to be no downstream dependencies of these files outside the folder, and even inside them, some experimentation is going to be needed, and different areas of game theory are going to use different variations of the same conceptual definition.

Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Basic.lean:79]: To give one example, I am quite certain that utility functions are going to have a multitude of definitions.

Comment (Shreyas4991) [reply Mathlib/GameTheory/Auction/Basic.lean:79]: A similar opinion has been expressed by Kim for another TCS formalisation: https://leanprover.zulipchat.com/#narrow/stream/252551-graph-theory/topic/Labeled.20Transition.20Systems/near/472581943

**Comment by hcWang942** [comment]
Well I am actually agree that creating a separate repository for `GameTheory` in LeanCommunity is a good proposal. 

As mentioned we need the flexibility for experimentation and iteration as we formalize different areas of game theory, also can avoids prematurely generalizing or abstracting concepts before we have a good understanding of how they will be used across different game theoretic models. Furthermore, it allows us to develop and refine these formalizations independently, while still enrich mathlib's core libraries. 

We can always revisit incorporating parts into mathlib later if generally useful abstractions emerge. For now, a repo gives us the freedom to focus on formalizing game theory concepts. I appreciate the suggestions to improve integration with mathlib, but I think the separate repo approach strikes a good balance between mathlib and developing specialized game theory formalizations.

**Comment by hcWang942** [comment]
For the plan, we still exploring to do more things in mechanism design and auctions aligns well with several important areas in game theory.

One key theorem we could focus on is the affiliated signal version of Myerson's revenue equivalence theorem, proven by Paul Klemperer and his collaborators in 1989. This theorem, which essentially shows how bidders' mutual influence can drive up prices, is a good example of monotone comparative analysis, an area of particular interest to many theoretical economists.

Regarding equilibrium refinement, Selten's _trembling hand equilibrium_ is a widely used method for eliminating equilibria in complete information settings. This concept, which earned Selten a Nobel Prize, aims to remove less ‘plausible’ Nash equilibria by considering the stability of equilibria under small mistakes by players. In incomplete information settings, we might look at refining perfect _Bayesian Nash equilibria_ using the incentive compatible condition proposed by Milgrom and Weber.

Using Lean for these proofs could be particularly valuable. It could ensure that we don't overlook any possibilities when solving for equilibria and performing equilibrium deletion. This rigorous proof process could also provide insights for designing experiments to validate how these mechanisms operate in practice.

The logic behind Myerson's equivalence theorem might follow a similar approach:

- Identify the equilibrium sets for mechanisms A and B
- Refine these equilibria
- Compare the allocations and revenues at the refined equilibrium points

Formalizing these processes with Lean could allow us to avoid relying on specific parameter values, potentially leading to more general and convincing results. The challenge lies in clearly describing these problems within Lean's framework.

This approach could be particularly powerful for comparing mechanisms. For instance, to show that mechanism A is at least as good as mechanism B, we could use Lean to systematically work through the steps of finding equilibria, refining them, and comparing outcomes. This could provide a more comprehensive and reliable analysis than traditional methods that often rely on specific numerical examples.

The main challenge will likely be in translating these game-theoretic concepts and processes into Lean's formal language. However, once accomplished, this could open up new possibilities for automated checking and verification of game-theoretic results.

**Comment by YaelDillies** [comment]
It looks like this PR is not ready for merging and might soon to be made redundant by the creation of a new game theory repo. Tagging `awaiting-author` for now. Feel free to remove it if I misunderstood!

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
